US07199147B2
Under a nitrogen atmosphere, triethylamine (1.73 ml, 0.01243 mol) and ethyl 5-bromovalerate (1.72 ml, 0.0109 mol) were added to a solution of N-benzylglycine ethyl ester (2.0 g, 0.0103 mol) in acetonitrile (40 ml) at room temperature, and the resulting mixture was heated at 60° C. After 1 hour, the mixture was refluxed. After 9 hours, the mixture was concentrated under reduced pressure, and the resulting residue was extracted with water (200 ml) and ethyl acetate (200 ml×2) and the organic layer was dried over anhydrous magnesium sulfate. The organic layer dried was concentrated under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent: hexane/ethyl acetate) to obtain ethyl 5-[benzyl(2-ethoxy-2-oxoethyl)amino]pentanoate (1.2473 g, 37%).

reactant | triethylamine | 0.01243 mol, 1.73 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl 5-bromovalerate | 0.0109 mol, 1.72 ml | BrCCCCC(=O)OCC | C7H13BrO2
reactant | N-benzylglycine ethyl ester | 0.0103 mol, 2.0 g | C(C)OC(CNCC1=CC=CC=C1)=O | C11H15NO2
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | ethyl 5-[benzyl(2-ethoxy-2-oxoethyl)amino]pentanoate | 1.2473 g, 37% | C(C1=CC=CC=C1)N(CCCCC(=O)OCC)CC(=O)OCC | C18H27NO4
